US07425568B2
b) 3-Amino-5-(trifluoromethyl)-2-(2-phenylchroman-6-yloxy)-aniline
2,6-Dinitro-1-(2-phenylchroman-6-yloxy)-4-trifluoromethylbenzene (0.198 g; 0.43 mmol) was reduced to corresponding diamino compound as described for 2-(2-phenylchroman-6-yloxy)-aniline in Example 29 except that 25 ml of glacial acetic acid and 1.525 g of metallic zinc powder were used. Product was purified by column chromatography (100% CH2Cl2 as the eluant). 1H-NMR (400 MHz; d6-DMSO): δ 7.45-7.28 (m, 5H), 6.76 (d, 1H, J=8.8 Hz), 6.65 (dd, 1H, J=8.7 Hz, J=3.0 Hz), 6.62 (d, 1H, J=2.8 Hz), 5.04 (dd, 1H, J=10.0 Hz, J=2.1 Hz), 4.98 (s, 4H), 2.98-2.86 (m, 1H), 2.70-2.60 (m, 1H), 2.18-2.09 (m, 1H), 2.00-1.88 (m, 1H).

reactant | 2,6-Dinitro-1-(2-phenylchroman-6-yloxy)-4-trifluoromethylbenzene | 0.43 mmol, 0.198 g | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H15F3N2O6
reactant | 2-(2-phenylchroman-6-yloxy)-aniline | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=C(N)C=CC=C1 | C21H19NO2
catalyst | zinc | 1.525 g | [Zn] | Zn
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 3-Amino-5-(trifluoromethyl)-2-(2-phenylchroman-6-yloxy)-aniline | NC=1C(=C(N)C=C(C1)C(F)(F)F)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H19F3N2O2
